US05128355
Part D: Preparation of 4'-Methyl-2-(N-(triphenylmethyl)-1,2,3-triazol-4-yl)biphenyl
4'-Methyl-2-(1,2,3-triazol-4-yl)biphenyl (2.61 g, 11 mmol, 1.0 eq), triethylamine (1.69 mL, 12 mmol, 1 eq), tritylbromide (3.88 g, 12 mmol, 1 eq) and methylene chloride (30 mL) were mixed and stirred at 0° C. and then allowed to warm to room temperature. After 1 hour, ethyl acetate was added (200 mL) and the organic phase was washed with water (3×200 mL). The organic layer was dried (MgSO4) and the solvent removed in vacuo to yield 5.15 g of a yellow solid. This product was recrystallized from methylcyclohexane to give 3.26 g of off-white crystals; m.p. 181.0°-182.5°. NMR (200 MHz, CDCl3) δ 8.18 (d, 1H, J=7Hz); 7.50-7.16 (m, 12H); 7.05-6.89 (m, 10 Hz); 6.47 (s, 1H); 2.54 (s, 3H). Anal. Calcd. for C34H27N3 : C, 85.50; H, 5.70; N, 8.80. Found: C, 86.60; H, 5.80; N, 8.94.

reactant | 4'-Methyl-2-(1,2,3-triazol-4-yl)biphenyl | 11 mmol, 2.61 g, 1.0 eq | CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NNC1 | C15H13N3
reactant | triethylamine | 12 mmol, 1.69 mL, 1 eq | C(C)N(CC)CC | C6H15N
reactant | tritylbromide | 12 mmol, 3.88 g, 1 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C19H15Br
reactant | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4'-Methyl-2-(N-(triphenylmethyl)-1,2,3-triazol-4-yl)biphenyl | 5.15 g | CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H27N3
